US07425634B2
(51e) 3-ethyl-2-methyl-4-nitropyridine1-oxide
While cooling a mixture of 3-ethyl-2-methylpyridine 1-oxide (7.35 g, 53.6 mmol) and sulfuric acid (22.7 g, 231=mmol) in an ice bath, fuming nitric acid (3.64 ml, 87.9 mmol) was added dropwise, which was stirred at 80° C. for 8 hours. The reaction mixture was cooled to room temperature and then poured into ice. The obtained aqueous solution was extracted three times with chloroform. The organic layers were combined, dried over anhydrous magnesium sulfate, filtrated and concentrated to obtain the title compound (3.37 g, yield: 34.5%) as yellow solid.

reactant | 3-ethyl-2-methylpyridine 1-oxide | 53.6 mmol, 7.35 g | C(C)C=1C(=[N+](C=CC1)[O-])C | C8H11NO
reactant | sulfuric acid | 22.7 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 87.9 mmol, 3.64 ml | [N+](=O)(O)[O-] | HNO3
product | 3-ethyl-2-methyl-4-nitropyridine1-oxide | 3.37 g, yield: 34.5% | C(C)C=1C(=[N+](C=CC1[N+](=O)[O-])[O-])C | C8H10N2O3
